US08236826B2
Production of 1-(t-butoxycarbonyl)-4-[4-(4-nitrophenoxy)phenyl]piperazine
Potassium carbonate (15.7 g, 114 mmol) was added to a solution of 2-chloro-5-nitropyridine (4.50 g, 28.4 mmol) and 1-(4-hydroxyphenyl)piperazine dihydrochloride (7.13 g, 28.4 mmol) in DMF (80 mL). The resulting solution was stirred at room temperature for 8 hours. To this reaction solution was added di-t-butyl dicarbonate (6.81 g, 31.2 mmol), and stirred at room temperature for 2.5 days. To the reaction solution was charged with ethyl acetate, washed with water, and dried with anhydrous magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:n-hexane=1:3), to thereby yield 7.05 g of the title compound.

reactant | Potassium carbonate | 114 mmol, 15.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-nitropyridine | 28.4 mmol, 4.50 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 1-(4-hydroxyphenyl)piperazine dihydrochloride | 28.4 mmol, 7.13 g | Cl.Cl.OC1=CC=C(C=C1)N1CCNCC1
reactant | di-t-butyl dicarbonate | 31.2 mmol, 6.81 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(t-butoxycarbonyl)-4-[4-(4-nitrophenoxy)phenyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C21H25N3O5
